US06143311
1-Methoxy-4-[(2-propynyloxy)methoxy]benzene (Intermediate II-a) (9.8 g, 0.5 mol) prepared in the above example 2 and 48% w/v aqueous sodium hydroxide solution (11.0 g) were added to methanol (75 g). Iodine (14.0 g, 0.055 mol) was then added to the solution in several portions during which the inner temperature was maintained at below 10° C. The reaction mixture was stirred for further 3 hours and the solvent was then evaporated off. The residue was extracted with toluene (20 ml) and the toluene layer was washed with distilled water. Toluene was then evaporated off to obtain the desired 1-[[(3-iodo-2-propynyl) oxy]methoxy]-4-methoxybenzene (Derivative III-a)(12.6 g).

reactant | 1-Methoxy-4-[(2-propynyloxy)methoxy]benzene | 0.5 mol, 9.8 g | COC1=CC=C(C=C1)OCOCC#C | C11H12O3
reactant | sodium hydroxide | 11.0 g | [OH-].[Na+]
reactant | Iodine | 0.055 mol, 14.0 g | II | I2
solvent | methanol | 75 g | CO | CH4O
product | 1-[[(3-iodo-2-propynyl) oxy]methoxy]-4-methoxybenzene | 12.6 g | IC#CCOCOC1=CC=C(C=C1)OC | C11H11IO3
